US05124350
2,4-Dihydroxy-3-propylbenzamide
2,4-Dihydroxy-3-(2-propenyl)benzamide (575 mg) and 125 ml of ethanol was hydrogenated at 5 psi, room temperature, using 4% Pd/C catalyst for 3 hours. The solvent was removed under vacuum to give the product as an oil (4.25 mg, 74%).

reactant | 2,4-Dihydroxy-3-(2-propenyl)benzamide | 575 mg | OC1=C(C(=O)N)C=CC(=C1CC=C)O | C10H11NO3
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2,4-Dihydroxy-3-propylbenzamide | 4.25 mg, 74% | OC1=C(C(=O)N)C=CC(=C1CCC)O | C10H13NO3
